US05091387
N-(2-(1H-Indene-1-yl)ethyl)hydroxylamine (85 mg, 0.486 mmol) was added to a slurry of zinc dust (104 mg, 1.59 mmol) in glacial acetic acid (3 ml), and the mixture was heated at 65° for 2 hours. The mixture was cooled and filtered, then made basic with conc. ammonium hydroxide and extracted with ether. The ether layer was washed with water, then with brine, dried ober sodium sulfate, filtered, and evaporated to dryness in vacuo. The residue was chromatographed on a silica gel column eluted with 90:10:1 of CH2Cl2 :MeOH:NH4OH. The product fractions were evaporated to dryness in vacuo to give (2-(1H-indene-3-yl)ethyl)amine.

reactant | N-(2-(1H-Indene-1-yl)ethyl)hydroxylamine | 0.486 mmol, 85 mg | C1(C=CC2=CC=CC=C12)CCNO | C11H13NO
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 1.59 mmol, 104 mg | [Zn] | Zn
product | (2-(1H-indene-3-yl)ethyl)amine | C1C=C(C2=CC=CC=C12)CCN | C11H13N
